US06803372B2
(3) Preparation of 4-benzyloxy-2-fluorophenylhydrazine hydrochloride
A solution of NaNO2 (1.38 g) in H2O (8 mL) was added to a suspension of 4-benzyloxy-2-fluoroaniline (5.0 g) in 6N HCl (24 mL) at 0° C. After 30 minutes stirring, a solution of SnCl2 (7.7 g) in 6N HCl (24 mL) was added to the mixture at 0° C. The mixture was allowed to warm to room temperature and stirred for 1.5 hours to produce a precipitate. The precipitate was collected by filtration to yield 4.15 g of the title compound.

reactant | NaNO2 | 1.38 g | N(=O)[O-].[Na+]
reactant | 4-benzyloxy-2-fluoroaniline | 5.0 g | C(C1=CC=CC=C1)OC1=CC(=C(N)C=C1)F | C13H12FNO
reactant | SnCl2 | 7.7 g | Cl[Sn]Cl
solvent | H2O | 8 mL | O | H2O
solvent | HCl | 6N, 24 mL | Cl | ClH
solvent | HCl | 6N, 24 mL | Cl | ClH
product | 4-benzyloxy-2-fluorophenylhydrazine hydrochloride | 4.15 g | Cl.C(C1=CC=CC=C1)OC1=CC(=C(C=C1)NN)F | InChI=1S/C13H13FN2O.ClH/c14-12-8-11(6-7-13(12)16-15)17-9-10-4-2-1-3-5-10;/h1-8,16H,9,15H2;1H
